US04876343
A solution of 20 g (0.102 mol) of (S)-5-cyclohexylmethyl)-2,4-pyrrolidinedione in 800 ml of 10% methanol-ethyl acetate is exposed to hydrogen gas in the presence of platinum oxide (this solution is charcoaled and filtered before reduction). After hydrogen uptake is complete, the catalyst is filtered and the filtrate concentrated under reduced pressure. The remaining white solid is triturated with 100 ml of diethyl ether, filtered and washed with diethyl ether to afford 19.3 g of (4S-cis)-5-(cyclohexylmethyl)-4-hydroxy-2-pyrrolidinone after recrystallization from ethyl acetate; mp 141°-143° C.; [α]D23 =-19.9° (c=0.98% methanol).

reactant | 2,4-pyrrolidinedione | N1C(CC(C1)=O)=O | C4H5NO2
reactant | hydrogen | [H][H] | H2
reactant | methanol ethyl acetate | 800 ml | CO.C(C)(=O)OCC
catalyst | platinum oxide | [Pt]=O
product | (4S-cis)-5-(cyclohexylmethyl)-4-hydroxy-2-pyrrolidinone | 19.3 g | C1(CCCCC1)C[C@H]1[C@H](CC(N1)=O)O | C11H19NO2
